US08629160B2
2-Chloro-1-phenylethanone (98 mg, 0.64 mmol) was added to a solution of (R)—((R)-quinuclidin-3-yl) 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate (diastereomer 1 of C19) (250 mg, 0.64 mmol) in CH3CN (3 ml). The reaction mixture was stirred at r.t. overnight, and then the solvent was evaporated and the residue was triturated with Et2O. The crude was purified by preparative HPLC (Eluent: CH3CN/H2O), to obtain (R)-3-((R)-2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (210 mg, 60.3% yield).

reactant | 2-Chloro-1-phenylethanone | 0.64 mmol, 98 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | (R)—((R)-quinuclidin-3-yl) 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate | 0.64 mmol, 250 mg | S1C2=C(C(=C1)[C@H](C(=O)O[C@H]1CN3CCC1CC3)NC3=CC=CC=C3)C=CC=C2 | C23H24N2O2S
solvent | CH3CN | 3 ml | CC#N | C2H3N
product | (R)-3-((R)-2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 210 mg, 60.3% yield | [Cl-].S1C2=C(C(=C1)[C@H](C(=O)O[C@H]1C[N+]3(CCC1CC3)CC(C3=CC=CC=C3)=O)NC3=CC=CC=C3)C=CC=C2 | InChI=1S/C31H31N2O3S.ClH/c34-27(22-9-3-1-4-10-22)19-33-17-15-23(16-18-33)28(20-33)36-31(35)30(32-24-11-5-2-6-12-24)26-21-37-29-14-8-7-13-25(26)29;/h1-14,21,23,28,30,32H,15-20H2;1H/q+1;/p-1/t23?,28-,30+,33?;/m0./s1
